US08236808B2
Step 5: 3,5-Diamino-6-chloro-pyrazine-2-carboxylic acid {(S)-2-[3-(4-methoxy-phenyl)-propylamino]-pentyl}-amide hydrochloride
3,5-Diamino-6-chloro-pyrazine-2-carboxylic acid ((S)-2-amino-pentyl)-amide hydrochloride (400 mg, 1.467 mmol), 3-(4-methoxyphenyl)propionaldehyde (181 mg, 1.103 mmol) and sodium triacetoxyborohydride (467 mg, 2.205 mmol) are dissolved in DCM (150 mL). The reaction mixture is stirred at reflux overnight. To the reaction mixture is added 1 M NaOH solution (50 mL) and DCM (50 mL). The organic phase is separated and the aqueous phase is extracted once with DCM. The combined organic phases are washed with brine, dried (MgSO4), filtered and concentrated in vacuo to afford a yellow solid. Purification by flash column chromatography (SiO2, MeOH:DCM, gradient 2-10%+0.1% TEA) affords the title compound. [M+H]+ 421.

reactant | 3,5-Diamino-6-chloro-pyrazine-2-carboxylic acid ((S)-2-amino-pentyl)-amide hydrochloride | 1.467 mmol, 400 mg | Cl.N[C@H](CNC(=O)C1=NC(=C(N=C1N)N)Cl)CCC
reactant | 3-(4-methoxyphenyl)propionaldehyde | 1.103 mmol, 181 mg | COC1=CC=C(C=C1)CCC=O | C10H12O2
reactant | sodium triacetoxyborohydride | 2.205 mmol, 467 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | NaOH | 1 M, 50 mL | [OH-].[Na+]
solvent | DCM | 150 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 50 mL | C(Cl)Cl | CH2Cl2
product | 3,5-Diamino-6-chloro-pyrazine-2-carboxylic acid {(S)-2-[3-(4-methoxy-phenyl)-propylamino]-pentyl}-amide hydrochloride | Cl.COC1=CC=C(C=C1)CCCN[C@H](CNC(=O)C1=NC(=C(N=C1N)N)Cl)CCC | InChI=1S/C20H29ClN6O2.ClH/c1-3-5-14(24-11-4-6-13-7-9-15(29-2)10-8-13)12-25-20(28)16-18(22)27-19(23)17(21)26-16;/h7-10,14,24H,3-6,11-12H2,1-2H3,(H,25,28)(H4,22,23,27);1H/t14-;/m0./s1
